US07947851B2
Step c) Formation of methyl 5-{[4-[(4-butylphenyl)ethynyl](hexyl)anilino]methyl}-2-fluorobenzoate
The title compound was prepared following procedure described in Example 49, step a) from 2-fluoro-5-formylbenzoic acid methyl ester (302 mg; 1.66 mmol), 4-(4-butylphenylethynyl)phenylamine (413 mg; 1.66 mmol) and hexanal (Aldrich, 600 μl; 4.97 mmol). Purification of the crude (890 mg) by flash chromatography using silicagel (EtOAc/c-Hex 5:95 then 10:90) afforded 700 mg (85%) of the title compound as a white powder. HPLC, Rt: 6.62 min (purity: 100%), LC/MS, M+(ESI): 500.3, 1H NMR(CDCl3) δ: 7.75 (dd, J=6.8, 2.3 Hz, 1H), 7.37 (d, J=8.3 Hz, 2H), 7.32 (d, J=8.9 Hz, 2H), 7.20 (m, 1H), 7.10 (d, J=8.3 Hz, 2H), 7.05 (dd, J=10.5, 8.6 Hz, 1H), 6.58 (d, J=7.9 Hz, 2H), 4.52 (s, 2H), 3.90 (s, 3H), 3.38 (t, J=7.8 Hz, 2H), 2.57 (t, J=7.6 Hz, 2H), 1.57 (m, 4H), 1.30 (m, 8H), 0.87 (m, 6H).

reactant | 2-fluoro-5-formylbenzoic acid methyl ester | 1.66 mmol, 302 mg | COC(C1=C(C=CC(=C1)C=O)F)=O | C9H7FO3
reactant | 4-(4-butylphenylethynyl)phenylamine | 1.66 mmol, 413 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)N | C18H19N
reactant | hexanal | 4.97 mmol, 600 μl | C(CCCCC)=O | C6H12O
product | methyl 5-{[4-[(4-butylphenyl)ethynyl](hexyl)anilino]methyl}-2-fluorobenzoate | 700 mg, 85% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(N(CCCCCC)CC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C33H38FNO2
